US07579473B2
A solution of methyl 3,6-anhydro-2-O-methyl-5-O-(phenylcarbonyl)-α-L-glucofuranoside (230 mg, 0.92 mmol) and 50% sodium hydroxide (74 mg, 0.92 mmol) in methanol (5 mL) was stirred at room temperature for 30 minutes. The mixture was adsorbed on silica gel (2 g) and passed through a short column (15% ethyl acetate in hexanes to 5% methanol in ethyl acetate) to afford a colorless oil which was employed directly in the next step, 140 mg, 0.72 mmol, 95% yield. The alcohol was dissolved in dichloromethane (5 mL) and pyridine (121 μL, 1.03 mmol) was added at 0° C. Methanesulfonyl chloride (27 μL, 0.88 mmol) was added and the resulting mixture was stirred at 0° C. for 1 hour then at room temperature for 2 hours. The reaction mixture was washed with water and saturated aqueous sodium bicarbonate solution, dried over sodium sulfate, filtered and concentrated to give methyl 3,6-anhydro-2-O-methyl-5-O-(methylsulfonyl)-α-L-glucofuranoside as a colorless oil, 190 mg, 96% yield.

reactant | methyl 3,6-anhydro-2-O-methyl-5-O-(phenylcarbonyl)-α-L-glucofuranoside | 0.92 mmol, 230 mg | CO[C@@H]1[C@H](OC)O[C@@H]2[C@H]1OC[C@@H]2OC(=O)C2=CC=CC=C2 | C15H18O6
reactant | sodium hydroxide | 0.92 mmol, 74 mg | [OH-].[Na+]
reactant | pyridine | 1.03 mmol, 121 μL | N1=CC=CC=C1 | C5H5N
reactant | Methanesulfonyl chloride | 0.88 mmol, 27 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methanol | 5 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | methyl 3,6-anhydro-2-O-methyl-5-O-(methylsulfonyl)-α-L-glucofuranoside | 96% yield | CO[C@@H]1[C@H](OC)O[C@@H]2[C@H]1OC[C@@H]2OS(=O)(=O)C | C9H16O7S
